US04472433
Preparation of ethyl 2-[2-nitro-3-(o-tolyloxy)phenyl]acetate
A mixture of o-cresol (4.9 g.), ethyl 2-(2-nitro-3-chlorophenyl)acetate (10.0 g.), potassium carbonate (8.5 g.) and cupric oxide (1 g.) was treated in a similar manner to the above to give the captioned compound (3.4 g.). bp 173° to 176° C./0.2 to 0.4 mmHg.

reactant | o-cresol | 4.9 g | C1(=CC=CC=C1O)C | C7H8O
reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 10.0 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
product | ethyl 2-[2-nitro-3-(o-tolyloxy)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)C)CC(=O)OCC | C17H17NO5
